US04758579
14. 2,2-Difluoro-6-[(4,5-dimethoxy-3-methyl-2-pyridyl)methylsulfinyl]-5H-[1,3]-dioxolo[4,5-f]benzimidazole
21 ml of a 0.1N solution of m-chloroperoxybenzoic acid in methylene chloride are added dropwise to a suspension, cooled to -40° C., of 0.80 g of 2,2-difluoro-6[(4,5-dimethoxy-3-methyl-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]-benzimidazole in 10 ml of methylene chloride in the course of 10 minutes. The mixture is stirred for a further 20 minutes, during which the temperature is allowed to rise to -20° C., and 0.5 ml of triethylamine are added and the reaction mixture is poured into 40 ml of 5% strength sodium thiosulfate solution and 5% strength sodium carbonate solution. After phase separation, the aqueous phase is extracted twice more with 20 ml of methylene chloride each time; the combined organic phases are washed with a mixture of 5 ml of sodium thiosulfate solution and 5 ml of sodium carbonate solution, dried and concentrated. The residue is recrystallized from methylene chloride/diisopropyl ether. 0.62 g (75% of theory) of the title compound is obtained; decomp. 189°-190° C.

reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2,2-difluoro-6[(4,5-dimethoxy-3-methyl-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]-benzimidazole | 0.80 g | FC1(OC=2C(=CC3=C(N=C(N3)SCC3=NC=C(C(=C3C)OC)OC)C2)O1)F | C17H15F2N3O4S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2,2-Difluoro-6-[(4,5-dimethoxy-3-methyl-2-pyridyl)methylsulfinyl]-5H-[1,3]-dioxolo[4,5-f]benzimidazole | FC1(OC=2C(=CC3=C(N=C(N3)S(=O)CC3=NC=C(C(=C3C)OC)OC)C2)O1)F | C17H15F2N3O5S
